* G:\My Drive\0 - SUTD\Term 6\Power Electronics\Project\ltspice\Draft2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 0 12
X§U4 N008 N002 N003 0 N006 OPA2197IDGKR ;§pnba In+)In-)V+)V-)OUT
C1 N003 0 10µ
C2 N003 0 100n
R18 N002 0 10k
R16 N014 N002 7.5k
C3 N014 N002 100n
R12 N003 N008 1.5K
R14 N008 N012 12.9K
R15 N012 0 10K
C9 N008 0 100n
R9 N013 N006 2.2K
Q2 N010 N013 0 0 2N3904
Q8 P001 N001 N010 0 MMBT3906
R36 N003 P001 47K
M§Q1 P002 P003 N014 N014 irf4905slpbf
M§Q4 N011 P004 N014 N014 irf4905slpbf
R33 N003 P002 0.02
R32 N003 N011 0.02
R31 P003 N010 100
R4 P004 N010 100
R3 N003 N010 100K
C4 N014 0 10µ
C5 N014 0 100n
RLOAD_10V N014 N009 0.2
X§U6.1 N009 N005 N003 0 N007 LM393BIDR ;§pnba In+)In-)V+)V-)OUT
R39 N004 0 2.2K
R42 N004 N005 18K
R43 N005 0 10K
R34 N009 0 0.003
R37 N003 N007 10K
R38 N003 N004 100K
R35 N001 N007 4.7K
X§U1 0 N008 N012 TL431 ;§pnba A)K)ref
V2 N016 0 6
C14 N016 0 10µ
C15 N016 0 100n
R20 N016 N022 1.5k
R24 N022 N025 33K
R25 N025 0 60K
X§U2 0 N022 N025 TL431 ;§pnba A)K)ref
X§U3 P005 N022 N003 0 N017 OPA2197IDGKR ;§pnba In+)In-)V+)V-)OUT
C12 N022 0 100n
R22 N024 P005 18k
R23 P005 0 63K
R28 N017 N020 1K
R29 N017 N021 1K
R26 N016 N018 0.02
R27 N016 N019 0.02
RLOAD_5 N024 0 1
M§Q3 N024 N020 N018 N018 irf4905slpbf
M§Q5 N024 N021 N019 N019 irf4905slpbf
C6 N024 0 100n
C7 N024 0 10µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\vince\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\vince\AppData\Local\LTspice\lib\cmp\standard.mos
.include FullSystemModels.lib
.tran 0 50m startup uic
.option method=gear cshunt=1e-12
.backanno
.end
